US09278951B2
Synthesis of 1,3-bis(4-(carboxymethoxy)benzyl)-4,5-dichloro-1H-imidazol-3-ium bromide
4,5-dichloroimidazole (1.00 g, 7.36 mmol) was dissolved in acetonitrile. Potassium hydroxide (0.828 g, 14.72 mmol) was added to the solution and allowed to reflux for 30 min. 2 equivalents of 2-(4-(bromomethyl)phenoxy)acetic acid (3.61 g, 14.72 mmol) was added to the solution and refluxed for 5 h. Solution was filtered to remove the KBr precipitate and neutralized with 6M HBr. Volatiles were removed in vacuo and the resulting white precipitate was collected and analyzed. 1H NMR (300 MHz, DMSO-d6): δ 4.67, 5.51, 7.12, 7.61, 9.23, 12.17.

reactant | 4,5-dichloroimidazole | 7.36 mmol, 1.00 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 14.72 mmol, 0.828 g | [OH-].[K+]
reactant | 2-(4-(bromomethyl)phenoxy)acetic acid | 14.72 mmol, 3.61 g, 2 equivalents | BrCC1=CC=C(OCC(=O)O)C=C1 | C9H9BrO3
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,3-bis(4-(carboxymethoxy)benzyl)-4,5-dichloro-1H-imidazol-3-ium bromide | [Br-].C(=O)(O)COC1=CC=C(CN2C=[N+](C(=C2Cl)Cl)CC2=CC=C(C=C2)OCC(=O)O)C=C1 | InChI=1S/C21H18Cl2N2O6.BrH/c22-20-21(23)25(10-15-3-7-17(8-4-15)31-12-19(28)29)13-24(20)9-14-1-5-16(6-2-14)30-11-18(26)27;/h1-8,13H,9-12H2,(H-,26,27,28,29);1H
